US04709095
To a solution of 4.3 g of 6-hydroxy-1-teralone in 0 ml of acetic acid and 6 ml of water with stirring under ice cooling is added dropwise a solution of 5.1 g of bromine in acetic acid for 8 minutes. After addition, the mixture is stirred unde ice cooling for 5 minutes and at room temperature for 30 minutes. To the reaction mixture is added 170 ml of ice-cold water. The insoluble substance is collected by filtration, dried and recrystallized from a mixture of hexane, ethyl acetate and ethanol to give 4.8 g of 5-bromo-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone, melting at 183°-186° C.

reactant | 6-hydroxy-1-teralone | 4.3 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | bromine | 5.1 g | BrBr | Br2
solvent | acetic acid | 0 ml | C(C)(=O)O | C2H4O2
solvent | water | 6 ml | O | H2O
product | 5-bromo-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | 4.8 g | BrC1=C2CCCC(C2=CC=C1O)=O | C10H9BrO2
